US04185115
Preparation of Ethyl p-[(p-Methoxybenzyl)amino]benzoate
A mixture of 33 g. of ethyl p-aminobenzoate, 100 ml. of hexamethylphosphoramide and 15.7 g. of p-(chloromethyl)anisole are heated at 100°-110° C. for 22 hours. The solution is chilled, diluted with 60 ml. of water, chilled, filtered and the solid washed with ethanol and with water to give yellow crystals. Recrystallization from ethanol gives pale yellow crystals, m.p. 128°-130° C.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | p-(chloromethyl)anisole | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | water | O | H2O
product | Ethyl p-[(p-Methoxybenzyl)amino]benzoate | COC1=CC=C(CNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C17H19NO3
